US09102623B2
A10.3) 6-(Heptafluoropropyl) 2 oxo-N-propyl-1,2-dihydropyridine-3-carboxamide
250 mg (0.78 mmol) of methyl 6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylate in 5 ml of propylamine were heated under reflux for 5 h. The mixture was then adjusted to pH 2 by addition of 1N hydrochloric acid and extracted with dichloromethane. Drying and concentration gave 240 mg (88% of theory) of a beige powder.

reactant | methyl 6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.78 mmol, 250 mg | FC(C(C1=CC=C(C(N1)=O)C(=O)OC)(F)F)(C(F)(F)F)F | C10H6F7NO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | propylamine | 5 ml | C(CC)N | C3H9N
product | 6-(Heptafluoropropyl) 2 oxo-N-propyl-1,2-dihydropyridine-3-carboxamide | FC(C(C1=CC=C(C(N1)=O)C(=O)NCCC)(F)F)(C(F)(F)F)F | C12H11F7N2O2
